US07605289B2
To a mixture of methyl 4-acetylbenzoate (5.0 g, 28.1 mmol) and CF3SiMe3 (12.5 mL, 84.2 mmol) in THF (150 mL) was added TBAF (1.0 M, 78.6 mL, 78.6 mmol) dropwise at 0° C. The mixture was stirred for 2.5 h at room temperature, diluted with Et2O (100 mL). The solution was washed with saturated aqueous NaHCO3 and brine, dried and concentrated. Flash chromatography of the residue, using 2:8 EtOAc-Hexane, gave methyl 4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzoate (6.0 g). 1H NMR (CDCl3) δ 8.07(d, J=8.5 Hz, 2 H), δ 7.67(d, J=8.5 Hz, 2 H), 3.93(s, 3 H), 2.70(br, 1 H), 1.80(s, 3H). MS 249.1 (M+H+).

reactant | methyl 4-acetylbenzoate | 28.1 mmol, 5.0 g | C(C)(=O)C1=CC=C(C(=O)OC)C=C1 | C10H10O3
reactant | CF3SiMe3 | 84.2 mmol, 12.5 mL | C(F)(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | TBAF | 78.6 mmol, 1.0 M, 78.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | methyl 4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzoate | 6.0 g | FC(C(C)(O)C1=CC=C(C(=O)OC)C=C1)(F)F | C11H11F3O3
